US08048902B2
Step 3: 2-(4-Bromo-phenyl)-propionyl chloride
2-(4-Bromo-phenyl)-propionic acid (0.500 g, 2.18 mmol) in dichloromethane (20 mL) was treated with dimethylformamide (0.03 mL, 0.44 mmol), followed by oxalyl chloride (0.248 mL, 2.8 mmol) dropwise over 5 minutes, and the reaction was stirred at room temperature for 1 hour. The mixture was then concentrated and dried under vacuum to give the title compound.

reactant | 2-(4-Bromo-phenyl)-propionic acid | 2.18 mmol, 0.500 g | BrC1=CC=C(C=C1)C(C(=O)O)C | C9H9BrO2
reactant | dimethylformamide | 0.44 mmol, 0.03 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 2.8 mmol, 0.248 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(4-Bromo-phenyl)-propionyl chloride | BrC1=CC=C(C=C1)C(C(=O)Cl)C | C9H8BrClO
